US07919504B2
tert-Butyl 5-(benzo[d]isothiazol-6-yl)-1,3,4-thiadiazol-2-ylcarbamate.
To a suspension of 5-(benzo[d]isothiazol-6-yl)-1,3,4-thiadiazol-2-amine (88 mg, 0.38 mmol) and DMAP (4.6 mg, 38 μmol) in CH3CN (3 mL) was added Boc2O (0.17 mL, 0.75 mmol) and the mixture was stirred at 50° C. for 1 hour. LiBr (0.17 g, 1.9 mmol) was added, and the mixture was heated for 2 hours, cooled, and adsorbed onto silica gel. The residue was purified by column chromatography (DCM—2% MeOH in DCM) to obtain the desired product as a white solid (65 mg, 52%). LCMS (API-ES) m/z (%): 335.4 (100%, M+H+); 1H NMR (400 MHz, CDCl3) δ ppm 8.97 (s, 1 H) 8.51 (s, 1 H) 8.17 (d, J=8.53 Hz, 1 H) 8.00 (d, J=8.03 Hz, 1 H) 1.60 (s, 9 H).

reactant | 5-(benzo[d]isothiazol-6-yl)-1,3,4-thiadiazol-2-amine | 0.38 mmol, 88 mg | S1N=CC2=C1C=C(C=C2)C2=NN=C(S2)N | C9H6N4S2
reactant | Boc2O | 0.75 mmol, 0.17 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | LiBr | 1.9 mmol, 0.17 g | [Li+].[Br-]
catalyst | DMAP | 38 μmol, 4.6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | tert-Butyl 5-(benzo[d]isothiazol-6-yl)-1,3,4-thiadiazol-2-ylcarbamate | 65 mg, 52% | S1N=CC2=C1C=C(C=C2)C2=NN=C(S2)NC(OC(C)(C)C)=O | C14H14N4O2S2
